US07348456B2
Step A: Benzyl 2-(2-Pyridyloxy)propionate
To a mixture of 2-hydroxypyridine (2.9 g, 30 mmol), benzyl lactate (5.0 g, 21 mmol) and triphenylphosphine (12 g, 47 mmol) in 100 mL of methylene chloride was added diethylazodicarboxylate (7.8 mL, 45 mmol) at 0° C. The reaction was allowed to warm to room temperature for 4 h. The resulting mixture was diluted with hexane (100 mL) and concentrated with 20 g of silica gel. The material was loaded onto a silica gel column, which was eluted with 10% ethyl acetate in hexane to give the title compound. 1H NMR (500 MHz, CD3OD): δ 8.00 (dd, 1H), 7.68 (ddd, 1H), 7.36-7.28 (m, 5 H), 6.94 (dd, 1H), 6.84 (dd, 1H), 5.30 (q, 1H), 5.18 (s, 2H), 1.59 (d, 3H). LC-MS: m/e 258 (M+H)+ (3.3 min).

reactant | 2-hydroxypyridine | 30 mmol, 2.9 g | OC1=NC=CC=C1 | C5H5NO
reactant | benzyl lactate | 21 mmol, 5.0 g | C(C(O)C)(=O)OCC1=CC=CC=C1 | C10H12O3
reactant | triphenylphosphine | 47 mmol, 12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 45 mmol, 7.8 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | 100 mL | CCCCCC | C6H14
product | Benzyl 2-(2-Pyridyloxy)propionate | N1=C(C=CC=C1)OC(C(=O)OCC1=CC=CC=C1)C | C15H15NO3
